US08614206B2
To a solution of 2,2,2-trifluoro-N-[(4R)-5-(methoxymethylene)-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]acetamide (1060 mg, 2.81 mmol) in chloroform (90 mL) was added trichloroacetic acid (1.84 g, 11.24 mmol). The mixture was heated at 70° C. overnight and another portion of trichloroacetic acid (1.84 g, 11.24 mmol) was added and heating continued for 6 h. After cooling to room temperature, the reaction was quenched with saturated sodium bicarbonate and extracted with DCM 3×. The combined organic layers were concentrated and the residue was purified via silica gel column chromatography (0-100% EA/heptane) to give 2,2,2-trifluoro-N-[(4R)-5-formyl-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]acetamide (896 mg, 88%).

reactant | 2,2,2-trifluoro-N-[(4R)-5-(methoxymethylene)-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]acetamide | 2.81 mmol, 1060 mg | FC(C(=O)N[C@@H]1CCN(CCC1=COC)C=1N(N=CC1[N+](=O)[O-])C)(F)F | C14H18F3N5O4
reactant | trichloroacetic acid | 11.24 mmol, 1.84 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | trichloroacetic acid | 11.24 mmol, 1.84 g | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-trifluoro-N-[(4R)-5-formyl-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]acetamide | 896 mg, 88% | FC(C(=O)N[C@@H]1CCN(CCC1C=O)C=1N(N=CC1[N+](=O)[O-])C)(F)F | C13H16F3N5O4
